US07700655B2
(3) 2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}benzamide
Under argon atmosphere, phosphorus oxychloride (46 μl, 0.50 mmol) was added to a mixture of 2-acetoxy-5-bromobenzoic acid (90.3 mg, 0.35 mmol), 2-amino-4-[(1,1-dimethyl)ethyl]-5-piperidinothiazole (80.7 mg, 0.34 mmol), pyridine (0.1 mL) and tetrahydrofuran (3 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=3:1) to give the title compound (84.3 mg) as a crude product.

reactant | phosphorus oxychloride | 0.50 mmol, 46 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-acetoxy-5-bromobenzoic acid | 0.35 mmol, 90.3 mg | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Br | C9H7BrO4
reactant | 2-amino-4-[(1,1-dimethyl)ethyl]-5-piperidinothiazole | 0.34 mmol, 80.7 mg | NC=1SC(=C(N1)C(C)(C)C)N1CCCCC1 | C12H21N3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
product | 2-Acetoxy-5-bromo-N-{4-[(1,1-dimethyl)ethyl]-5-piperidinothiazol-2-yl}benzamide | 84.3 mg | C(C)(=O)OC1=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)N2CCCCC2)C=C(C=C1)Br | C21H26BrN3O3S
